US07687529B2
1-benzyl-3,3-dimethyl-1,3-dihydro-2H-indol-2-one (4.0 g, 15.9 mmol) was dissolved in THF (75 mL) and cooled to −78° C. n-Butyl lithium (2.5 M in hexane, 7.0 mL, 17.5 mmol) was added dropwise and the mixture was warmed to 0° C. over 15 minutes. Cooled to −78° C. and (2-Bromoethoxy)-tert-butyldimethylsilane (5.2 mL, 23.9 mmol) was added and the mixture was allowed to warm to 25° C. The mixture was stirred for 2 hours then quenched with saturated aqueous ammonium chloride, diluted with ether, washed with water, and saturated brine. The organic layer was separated, dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The crude product was purified via Isco chromatography (Redisep, silica, gradient 0-10% ethyl acetate in hexane) to afford 4.1 g (63%) 1-(3-{[tert-butyl)dimethyl)silyl]oxy}-1-phenylpropyl)-3,3-dimethyl-1,3-dihydro-2H-indol-2-one.

reactant | 1-benzyl-3,3-dimethyl-1,3-dihydro-2H-indol-2-one | 15.9 mmol, 4.0 g | C(C1=CC=CC=C1)N1C(C(C2=CC=CC=C12)(C)C)=O | C17H17NO
reactant | n-Butyl lithium | 17.5 mmol, 2.5 M, 7.0 mL | C(CCC)[Li]
reactant | (2-Bromoethoxy)-tert-butyldimethylsilane | 23.9 mmol, 5.2 mL | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 3,3-dimethyl-1,3-dihydro-2H-indol-2-one | CC1(C(NC2=CC=CC=C12)=O)C | C10H11NO
